US05750213
First, 4.9 g of 11-[2,3-difluorobiphenyl-4'-yl]oxyundecyl 2,2-bis(6-benzyloxyhexyl)acetate, 1.5 g of 10% Pd-C, and 100 ml of tetrahydrofuran were placed in a 300 ml autoclave. The mixture was stirred at room temperature for 2 days under a hydrogen pressure of 10 kg/cm2. The catalyst was filtered away and a filtrate was concentrated. Thereafter, the residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=7/3) to obtain 3.7 g of 11-[2,3-difluorobiphenyl-4'-yl]oxyundecyl 2,2-bis(6-hydroxyhexyl)acetate (Y: 97.5%). The compound thus obtained had a purity of 98% by HPLC.

reactant | 11-[2,3-difluorobiphenyl-4'-yl]oxyundecyl 2,2-bis(6-benzyloxyhexyl)acetate | 4.9 g | C(C1=CC=CC=C1)OCCCCCCC(C(=O)OCCCCCCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCOCC1=CC=CC=C1 | C51H68F2O5
catalyst | Pd-C | 1.5 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 11-[2,3-difluorobiphenyl-4'-yl]oxyundecyl 2,2-bis(6-hydroxyhexyl)acetate | 3.7 g, 97.5% | OCCCCCCC(C(=O)OCCCCCCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCO | C37H56F2O5
